US05025007
Step F: Preparation of 1-(2-tetrahydropyranyl)oxymethyl-3-methylcarbonyl-9-fluorenone
1-(2-Tetrahydropyranyl)oxymethyl-3-(2-pyridyl)thiocarbonyl-9-fluorenone (470 mg) was dissolved in THF (10 ml) and cooled to -15° under N2. A solution of MeMgBr in THF (1.2 eq) was added dropwise over 5 minutes and the reaction allowed to stir at -15° C. for 0.5 hour. The reaction was quenched with saturated ammonium chloride solution, diluted with EtOAc, and washed with water, sat'd NaCl solution then dried and evaporated to give a residue which was chromatographed on silica gel gave the product (233 mg).

reactant | 1-(2-Tetrahydropyranyl)oxymethyl-3-(2-pyridyl)thiocarbonyl-9-fluorenone | 470 mg | O1C(CCCC1)OCC1=CC(=CC=2C3=CC=CC=C3C(C12)=O)C(=S)C1=NC=CC=C1 | C25H21NO3S
reactant | MeMgBr | C[Mg+].[Br-]
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | THF | 1.2 eq | C1CCOC1 | C4H8O
product | 1-(2-tetrahydropyranyl)oxymethyl-3-methylcarbonyl-9-fluorenone | 233 mg | O1C(CCCC1)OCC1=CC(=CC=2C3=CC=CC=C3C(C12)=O)C(=O)C | C21H20O4
